US03984467
1-(4-Nitrophenyl)-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 3.39 g. sodium in 200 ml. dry acetone, 20 g. valeramidine hydrochloride, and 21.9 g. 4-nitrophenyl isocyanate in 100 ml. dry acetone, there was obtained after recrystallization from methyl alcohol 10.8 g. of the hydrochloride of 1-(4-nitrophenyl)-3(-pentanimidoyl)urea; m.p. 187°-191°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 4-nitrophenyl isocyanate | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Nitrophenyl)-3-(pentanimidoyl)urea | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)NC(CCCC)=N | C12H16N4O3
